US05100895
5-Chloro-2,3-dihydro-9-fluoroimidazo[1,2-c]quinazoline
A suspension of 2-chloro-6-fluoro-4-(2-hydroxyethylamino)quinazoline (7.0 g, 29 mmol) in dichloromethane (140 ml) was heated at reflux for 4 hours with thionyl chloride (4.2 ml, 58 mmol) and triethylamine (8 ml, 58 mmol). The cooled mixture was evaporated to dryness and extracted with water (80 ml). The acidic water solution was neutralized with 25% aqueous ammonia (approx. 7 ml) and the resulting precipitate was filtered off and dried to give the title compound as light yellow crystals, m.p. 209°-211° C.

reactant | 2-chloro-6-fluoro-4-(2-hydroxyethylamino)quinazoline | 29 mmol, 7.0 g | ClC1=NC2=CC=C(C=C2C(=N1)NCCO)F | C10H9ClFN3O
reactant | thionyl chloride | 58 mmol, 4.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 58 mmol, 8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
product | 5-Chloro-2,3-dihydro-9-fluoroimidazo[1,2-c]quinazoline | ClC1=NC=2C=CC(=CC2C=2N1CCN2)F | C10H7ClFN3
